US07112585B2
To a mixture of magnesium (240 mg, 10 mmol) and ether (20 mL) was added 2,4,6-trimethylbenzyl chloride (1.69 g, 10 mmol) in ether (20 mL) dropwise at reflux under N2. The freshly prepared solution of 2,4,6-trimethylbenzylmagnesium chloride in ether was added to a solution of 5-(4-methoxy-benzenesulfonyl)-2-methylpyrimidine (264 mg, 1.0 mmol) in THF (10 mL) dropwise at 0° C. The mixture was stirred under N2 at 0° C. for 1 h and then quenched by addition of saturated aqueous NH4Cl. The organic layer was separated and the aqueous layer was extracted three times with EtOAc. The combined organic layers were washed with brine, dried over Na2SO4, filtered and concentrated in vacuo. The residue was purified by chromatography on silica gel (EtOAc) to provide 5-(4-methoxy-benzenesulfonyl)-2-methyl-6-(2,4,6-trimethylbenzyl)-1,6-dihydro-pyrimidine (203 mg, 51%) as a light yellow solid: 1H NMR (500 MHz, CDCl3) δ 7.86 (d, J=9.0 Hz, 2H), 7.45 (s, 1H), 6.99 (d, J=9.0 Hz, 2H), 6.83 (s, 2H), 4.40 (dd, J=10.8, 3.2 Hz, 1H), 3.86 (s, 3H), 2.96 (dd, J=14.2, 10.8 Hz, 1H), 2.87 (dd, J=14.2, 3.2 Hz, 1H), 2.25 (s, 6H), 2.24 (s, 3H), 1.91 (s, 3H); ESI MS m/z 399 [(M+H)+, calcd for C22H27N2O3S, 399.2].

reactant | magnesium | 10 mmol, 240 mg | [Mg] | Mg
reactant | 2,4,6-trimethylbenzyl chloride | 10 mmol, 1.69 g | CC1=C(CCl)C(=CC(=C1)C)C | C10H13Cl
reactant | 2,4,6-trimethylbenzylmagnesium chloride | CC1=C(C[Mg]Cl)C(=CC(=C1)C)C
reactant | 5-(4-methoxy-benzenesulfonyl)-2-methylpyrimidine | 1.0 mmol, 264 mg | COC1=CC=C(C=C1)S(=O)(=O)C=1C=NC(=NC1)C | C12H12N2O3S
solvent | ether | 20 mL | CCOCC | C4H10O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | ether | 20 mL | CCOCC | C4H10O
product | 5-(4-methoxy-benzenesulfonyl)-2-methyl-6-(2,4,6-trimethylbenzyl)-1,6-dihydro-pyrimidine | 203 mg, 51% | COC1=CC=C(C=C1)S(=O)(=O)C1=CN=C(NC1CC1=C(C=C(C=C1C)C)C)C | C22H26N2O3S
